US09126981B2
Synthesis of Ethyl 2-methyl-2-(1-methylhydrazinyl)propanoate (Compound XIV-2)
According to the procedure described in the synthesis method of Compound XIV-1, methylhydrazine (7.12 g, 150 mmol) was reacted with ethyl 2-bromo-2-methylpropanoate (19.51 g, 100 mmol) to obtain the title compound (15.54 g, 96%).

reactant | methylhydrazine | 150 mmol, 7.12 g | CNN | CH6N2
reactant | ethyl 2-bromo-2-methylpropanoate | 100 mmol, 19.51 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl 2-methyl-2-(1-methylhydrazinyl)propanoate | 15.54 g, 96% | CC(C(=O)OCC)(C)N(N)C | C7H16N2O2
